US07598417B2
N-(2-fluoroethyl)-N′-(4-hydroxy-2,3-dihydro-1H-inden-1-yl)urea:
1-({[(2-fluoroethyl)amino]carbonyl} amino)-2,3-dihydro-1H-inden-4-yl benzoate (reported earlier, 230 mg, 0.67 mmol) was dissolved in MeOH (20 mL) and lithium hydroxide (900.00 mg, 37.58 mmol) was added. The resulting reaction mixture was refluxed for 4 hours and then cooled to room temperature. Concentration followed by the addition of HCl (10%, 10.00 mL) gave a precipitate. The solid was then washed with water, ether and then vacuum-dried to afford the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 1.53-1.68 (m, 1H) 2.27-2.41 (m, 1H) 2.47-2.61 (m, 1H) 2.70-2.85 (m, 1H) 3.24-3.39 (m, 2H) 4.31 (t, J=5.13 Hz, 1H) 4.47 (t, J=4.98 Hz, 1H) 4.97-5.10 (m, 1H) 6.03 (t, J=5.57 Hz, 1H) 6.25 (d, J=8.21 Hz, 1H) 6.58-6.72 (m, 2H) 6.97 (t, J=7.77 Hz, 1H) 9.24 (s, 1H).

reactant | 1-({[(2-fluoroethyl)amino]carbonyl} amino)-2,3-dihydro-1H-inden-4-yl benzoate | 0.67 mmol, 230 mg | C(C1=CC=CC=C1)(=O)OC1=C2CCC(C2=CC=C1)NC(=O)NCCF | C19H19FN2O3
reactant | lithium hydroxide | 37.58 mmol, 900.00 mg | [OH-].[Li+]
solvent | MeOH | 20 mL | CO | CH4O
product | N-(2-fluoroethyl)-N′-(4-hydroxy-2,3-dihydro-1H-inden-1-yl)urea | FCCNC(=O)NC1CCC2=C(C=CC=C12)O | C12H15FN2O2
